US06624159B2
Ethyl 8-Formyl-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate [AV.6]
A stirred solution of 3-ethyl 1-isobutyl 8-((acetyloxy)methyl)-6-methyl-4-oxo-1,3-(4H)-quinolinedicarboxylate (Preparation 26, 3.0 g) and N-bromosuccinimide (3.0 g) in dichloromethane (300 mL) is irradiated with a 650 watt sun lamp for 20 min. Morpholine (15 mL) is added to the solution. After 10 min, ethanol (20 mL) is added, and the solvents are removed at 50° C./20 mm. The reaction is repeated on the same scale. The reaction mixtures are combined and partitioned between chloroform (250 mL) and water (150 mL). The chloroform layer is washed twice with water, and the chloroform is evaporated. The residual oil is chromatographed on silica gel (1% methanol/chloroform) to give 2.15 g of the title compound. Physical characteristics: M.p. 202-204° C.; 1H NMR (CDCl3) δ1.43, 2.50, 3.69, 3.74, 4.42, 8.19, 8.59, 8.67, 10.18, 11.8. Anal. Found: C, 62.42; H, 5.92; N, 8.03.

reactant | 3-ethyl 1-isobutyl 8-((acetyloxy)methyl)-6-methyl-4-oxo-1,3-(4H)-quinolinedicarboxylate | 3.0 g | C(C)(=O)OCC=1C=C(C=C2C(C(=CN(C12)C(=O)OCC(C)C)C(=O)OCC)=O)C | C21H25NO7
reactant | N-bromosuccinimide | 3.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Morpholine | 15 mL | N1CCOCC1 | C4H9NO
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | Ethyl 8-Formyl-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate | 2.15 g | C(=O)C=1C=C(C=C2C(=C(C=NC12)C(=O)OCC)O)CN1CCOCC1 | C18H20N2O5
